US06498165B1
2-[(4-Fluorobenzyl)amino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 4-fluorobenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 320.1 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.60 (s, 1H); 8.43 (br s, 1H); 8.07 (br s, 1H); 7.86 (m, 1H); 7.38 (m, 5H); 7.07 (t, J=8.7 Hz, 1H); 6.85 (d, J=5.5 Hz, 1H); 5.79 (br s, 1H); 4.72 (d, J=5.7 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
product | 2-[(4-Fluorobenzyl)amino]-4-[benzimidazol-1-yl]pyrimidine | FC1=CC=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=C1 | C18H14FN5
